US05591851
cHPMPC was synthesized by adding to a stirred suspension of HPMPC (100 g, 0.358 mol) in DMF (2 L) N, N'-dicyclohexyl-4-morpholinecarboxamidine (115 g, 0.393 mol). The reaction mixture was stirred for 12 hours at room temperature. This solution was added slowly to a hot pyridine solution (5 L, 60° C.) of DCC (185 g, 0.895 mol) through an addition funnel. The reaction mixture was stirred at 100° C. for 16 hours, cooled to room temperature and the solvents were removed under reduced pressure. The crude mixture was washed with diethyl ether (3 L), dissolved in water (2 L) and washed with CH2Cl2 (5×1 L). The aqueous layer was concentrated to 1 L volume and acidified to pH-3.5. Upon cooling cyclic-HPMPC crystallized (89 g,~95% pure). The cHPMPC was recrystallized by dissolving in water at pH8 (with 1N NaOH) followed by acidification to pH 3.5 (with 1N HCl):

reactant | HPMPC | 0.358 mol, 100 g | C1=CN(C(=O)N=C1N)C[C@@H](CO)OCP(=O)(O)O | C8H14N3O6P
reactant | DMF | 0.393 mol, 2 L, 115 g | CN(C)C=O | C3H7NO
reactant | DCC | 0.895 mol, 185 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | pyridine | 5 L | N1=CC=CC=C1 | C5H5N
product | cHPMPC | C1[C@@H](OCP(=O)(O1)O)CN2C=CC(=NC2=O)N | C8H12N3O5P
